US08669266B2
(iv) 4-{(S)-4-Benzyloxy-2-[(4-tert-butoxycarbonylmethoxy-7-methyl-quinoline-2-carbonyl)-amino]-butyryl}-piperazine-1-carboxylic acid butyl ester
To a solution of 650 mg of 4-{(S)-4-Benzyloxy-2-[(4-hydroxy-7-methyl-quinoline-2-carbonyl)-amino]-butyryl}-piperazine-1-carboxylic acid butyl ester in 7.7 ml of DMF, 414 mg of cesium carbonate and 248 mg of Bromo-acetic acid tert-butyl ester was added and the reaction mixture was stirred for 2 h at RT. Then, the reaction mixture was diluted with water and extracted with ethyl acetate. The organic phase was dried over MgSO4 and the solvents were removed under reduced pressure. The crude product was purified by chromatography on silica gel eluting with a gradient of n-heptane/ethyl acetate. The fractions containing the product were combined and the solvent evaporated under reduced pressure. Yield: 590 mg.

reactant | 4-{(S)-4-Benzyloxy-2-[(4-hydroxy-7-methyl-quinoline-2-carbonyl)-amino]-butyryl}-piperazine-1-carboxylic acid butyl ester | 650 mg | C(CCC)OC(=O)N1CCN(CC1)C([C@H](CCOCC1=CC=CC=C1)NC(=O)C1=NC2=CC(=CC=C2C(=C1)O)C)=O | C31H38N4O6
reactant | cesium carbonate | 414 mg | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | Bromo-acetic acid tert-butyl ester | 248 mg | C(C)(C)(C)OC(CBr)=O | C6H11BrO2
solvent | DMF | 7.7 ml | CN(C)C=O | C3H7NO
solvent | water | O | H2O
product | 4-{(S)-4-Benzyloxy-2-[(4-tert-butoxycarbonylmethoxy-7-methyl-quinoline-2-carbonyl)-amino]-butyryl}-piperazine-1-carboxylic acid butyl ester | C(CCC)OC(=O)N1CCN(CC1)C([C@H](CCOCC1=CC=CC=C1)NC(=O)C1=NC2=CC(=CC=C2C(=C1)OCC(=O)OC(C)(C)C)C)=O | C37H48N4O8
